US06207665B1
A solution of (2R)-3-benzyloxy-2-aminopropanoic acid methyl ester (19 g, 78 mmol) in methanol (350 mL) under N2 was cooled to 0° C. and acetic acid (2 g, pH 2) was added, followed by the addition of 4-fluorobenzaldehyde, a compound of formula (N) (12.5 mL, 117 mmol) and sodium cyanoborohydride (7.3 g, 117 mmol) and 3 Å molecular sieves (15 g). The resulting mixture was stirred at ambient temperature for 3 hours, then filtered through Celite (MeOH). The filtrate was concentrated in vacuo to afford a clear liquid. This was taken up in ethyl acetate and washed sequentially with 10% aqueous Na2CO3 solution, water, then brine. The organic phase was then dried over MgSO4, filtered, and concentrated in vacuo. Purification by flash column chromatography on silica gel afforded 14.7 g (60% yield) of (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)amino)propanoic acid methyl ester, a compound of formula (O), as a clear, colorless oil; NMR (CDCl3) 7.4-7.2 (m, 7), 7.0 (dd, 2), 4.5 (d, 2), 3.9-3.5 (m, 8) ppm, MS (LSIMS) 317.

reactant | (2R)-3-benzyloxy-2-aminopropanoic acid methyl ester | 78 mmol, 19 g | COC([C@@H](COCC1=CC=CC=C1)N)=O | C11H15NO3
reactant | acetic acid | 2 g, pH 2 | C(C)(=O)O | C2H4O2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium cyanoborohydride | 117 mmol, 7.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 350 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)amino)propanoic acid methyl ester | 14.7 g, 60% yield | COC([C@@H](COCC1=CC=CC=C1)NCC1=CC=C(C=C1)F)=O | C18H20FNO3
